US07776897B2
1,3-Dibromo-2-propanol, dimethoxymethane, and boron trifluoride diethyl ether complex were reacted in methylene chloride at room temperature to obtain 1,3-dibromo-2-(methoxymethoxy)propane.

reactant | 1,3-Dibromo-2-propanol | BrCC(CBr)O | C3H6Br2O
reactant | dimethoxymethane | COCOC | C3H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,3-dibromo-2-(methoxymethoxy)propane | BrCC(CBr)OCOC | C5H10Br2O2
